US03951952
b. N-Carboxymethylimidazoline Hydrochloride
A suspension of 10.9 g. (0.05 mole) of N-carbobenzyloxymethylimidazoline and 50 mg. of 5% palladium-on-charcoal in 100 ml. of ethanol is shaken in an atmosphere of hydrogen at atmospheric pressure. When the theoretical amount of hydrogen has been absorbed, the spent catalyst is filtered and the filtrate treated with one equivalent of hydrogen chloride dissolved in ethyl acetate. The resulting solution is then concentrated to dryness in vacuo and the residual product triturated with ether and filtered.

reactant | N-carbobenzyloxymethylimidazoline | 0.05 mole | C(=O)(OCC1=CC=CC=C1)CN1C=NCC1 | C12H14N2O2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | one equivalent | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | N-Carboxymethylimidazoline Hydrochloride | Cl.C(=O)(O)CN1C=NCC1 | InChI=1S/C5H8N2O2.ClH/c8-5(9)3-7-2-1-6-4-7;/h4H,1-3H2,(H,8,9);1H
